US07091214B2
The method described in Part J of Example 365 was used to oxidize and aminate 7-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (18.7 g, 58.4 mmol). 3-Chloroperoxybenzoic acid (22.1 g of 50% pure material, 129 mmol) was added in five portions during the oxidation step, and the amination with ammonium hydroxide (146 mL) and p-toluenesulfonyl chloride (16.6 g, 87.6 mmol) proceeded overnight. The crude product was obtained as an oil, which was treated with acetonitrile to form a precipitate. The precipitate was isolated by filtration, washed with a small amount of acetonitrile, and recrystallized from acetonitrile to provide 4 g of 7-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine as off-white needeles, mp 218–220° C.

reactant | 7-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 58.4 mmol, 18.7 g | BrC=1C=CC=2C3=C(C=NC2C1)N=CN3CC(C)C | C14H14BrN3
reactant | 3-Chloroperoxybenzoic acid | 129 mmol, 22.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 146 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 87.6 mmol, 16.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 4 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=CN3CC(C)C | C14H15BrN4
